US04370342
S-(4-Fluorobenzyl) 3-benzylthiopropionothioate
6.18 g (30 mmoles) of dicyclohexylcarbodiimide in 20 ml of methylene chloride were added to a solution, which had been cooled to 0° C., of 5.9 g (30 mmoles) of 3-benzylthiopropionic acid and 4.26 g (30 mmoles) of 4-fluorobenzylmercaptan in 25 ml of methylene chloride, and the mixture was kept overnight at room temperature. After filtering off the dicyclohexylurea and stripping off the solvent, the crude product was purified, first by chromatography, on silica gel, from 1:2 methylene chloride/petroleum ether and then by distillation in a bulb tube.

reactant | dicyclohexylcarbodiimide | 30 mmoles, 6.18 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-benzylthiopropionic acid | 30 mmoles, 5.9 g | C(C1=CC=CC=C1)CCC(=S)O | C10H12OS
reactant | 4-fluorobenzylmercaptan | 30 mmoles, 4.26 g | FC1=CC=C(CS)C=C1 | C7H7FS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | S-(4-Fluorobenzyl) 3-benzylthiopropionothioate | C(C1=CC=CC=C1)CCC(SCC1=CC=C(C=C1)F)=S | C17H17FS2
